US08106064B2
3-(5-Ethyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzaldehyde (107):
A mixture of (5-ethyl-2,6-dimethoxy-pyrimidin-4-yl)-(3-hydroxymethyl-5-methyl-phenyl)-methanone (4.8 g, 15.2 mmol) and manganese dioxide (13.2 g, 152 mmol) in dichloromethane (110 ml) was stirred for 48 hr. at room temperature. The mixture was filtered through celite pad and the pad was washed with dichloromethane. The combined filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:4)) to afford 3.22 g (67%) a white solid. m.p. 89-91° C.; 1H NMR (200 MHz, CDCl3) δ 1.07 (3H, t, J=7.4 Hz), 2.41-2.52 (5H, m), 3.92 (3H, s), 4.06 (3H, s), 7.91 (1H, s), 7.99 (1H, s), 8.10 (1H, s), 10.01 (1H, s).

reactant | (5-ethyl-2,6-dimethoxy-pyrimidin-4-yl)-(3-hydroxymethyl-5-methyl-phenyl)-methanone | 15.2 mmol, 4.8 g | C(C)C=1C(=NC(=NC1OC)OC)C(=O)C1=CC(=CC(=C1)C)CO | C17H20N2O4
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 152 mmol, 13.2 g | [O-2].[O-2].[Mn+4]
product | 3-(5-Ethyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzaldehyde | 3.22 g, 67% | C(C)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C=O)C=C(C1)C | C17H18N2O4
